US07161015B1
Preparation of 2-Furyl-n-undecenylketone (R=n-C9H18CH═CH2)—Magnesium turnings (2.0 g, 83.3 mmol) were covered with anhydrous Et2O (10 mL) and a solution of 1-bromoundecene (5.0 mL, 23.0 mmol) in anhydrous Et2O (15 mL) was added in small aliquots until the reaction begins. The remaining halide solution was added dropwise, then heated to reflux (1 hour), allowed to cool to rt and then added to a cooled solution of the Weinreb amide (2.82 g, 18.2 mmol in 15 mL anhydrous Et2O, 0° C.) via cannula. The resulting slurry was stirred (3 h) and then quenched with equal amounts of 1 N HCl and H2O. After warming to rt the mixture was separated and the aqueous layer was extracted with Et2O (2×). The combined organics were washed with sat'd. NaHCO3, brine, dried (Na2SO4), filtered, and evaporated to yield crude furyl ketone. 1H NMR: δ 7.58 (dd, 1H, 3JH,H=1.7 Hz, 4JH,H=0.74 Hz, H-2), 7.18 (dd, 1H, 3JH,H=3.6 Hz, 4JH,H=0.74 Hz, H-4), 6.53 (dd, 1H, 3JH,H=1.7 Hz, 3JH,H=3.6 Hz, H-3), 5.82 (m, 1H), 5.00 (m, 1H, vinyl), 4.92 (m, 1H, vinyl), 2.82 (t, 2H, 3JH,H=7.5 Hz, H-7), 2.04 (qd, 2H, 3JH,H=7.5 Hz, H-15), 1.72 (quintet, 2H, 3JH,H=7.5 Hz, H-8), 1.37–1.20 (m, 12H). 13C NMR: δ 189.9, 152.9, 146.2, 139.2, 116.8, 114.1, 112.1, 38.5, 33.8, 29.7, 29.4, 29.3, 29.2, 29.1, 28.9, 24.3.

reactant | 2-Furyl-n-undecenylketone | O1C(=CC=C1)C(=O)C=CCCCCCCCCC | C16H24O2
reactant | Magnesium | 83.3 mmol, 2.0 g | [Mg] | Mg
reactant | 1-bromoundecene | 23.0 mmol, 5.0 mL | BrC=CCCCCCCCCC | C11H21Br
reactant | Et2O | 15 mL | CCOCC | C4H10O
reactant | Et2O | 10 mL | CCOCC | C4H10O
product | furyl ketone | O1C(=CC=C1)C(=O)C=1OC=CC1 | C9H6O3
